US07700641B2
D. Synthesis of ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 1E, and making non-critical variations to replace 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained as a white powder: 1H NMR (300 MHz, DMSO-d6) δ 9.03 (s, 1H), 7.17-6.85 (m, 5H), 6.22 (s, 1H), 5.83 (s, 2H), 5.04 (t, 1H), 4.56-4.08 (m, 5H), 3.69 (m, 1H), 1.18 (t, 3H); MS (ES+) m/z 408.1 (M+23).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)C1=CC2=C(OCO2)C=C1O | C20H20BrNO4
reactant | ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O)=O | C19H17NO6
product | ethyl[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O)=O | C20H19NO7
